US05118694
1.02 g of 4-(2-methoxyphenyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile and 736 mg of sodium methanethiolate were heated at reflux in 10 ml of dimethylformamide under a nitrogen atmosphere for 1.5 hours and then poured into a mixture of diethyl ether and water. The organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using petroleum ether/ethyl acetate (3:1) for the elution. The resulting solid was recrystallized from diethyl ether/petroleum ether to give 210 mg of 4-(2-hydroxyphenyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile of melting point 139°-140° C.

reactant | 4-(2-methoxyphenyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 1.02 g | COC1=C(C=CC=C1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C19H17NO2
reactant | sodium methanethiolate | 736 mg | C[S-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2-hydroxyphenyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 210 mg | OC1=C(C=CC=C1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C18H15NO2
